US04102888
Step A-2. Preparation of 1-Diethylamino-4(S)-acetyloxy-2nonyne
A mixture of 3(S)-acetyloxy-1-octyne (58.5 g., 0.35 mole), diethylamine (28.5 g., 0.39 mole), paraformaldehyde (13.8 g., 0.46 mole), and p-dioxane (60 ml.) is heated on the steam bath for 17 hours, then cooled to room temperature and diluted with ether (250 ml.). The resulting solution is extracted with 5% hydrochloric acid (300 ml.) providing an aqueous extract (acidic) which is made basic with 10% sodium hydroxide solution and extracted with ether. The organic extract is dried over sodium sulfate and filtered. In vacuo evaporation of the filtrate leaves a residual oil which is distilled to provide the title compound (73.1 g., 89%), b.p. 103°-109° C./0.3 mm.; [α]D26 -80° (C 3.3, CHCl3).

reactant | 3(S)-acetyloxy-1-octyne | 0.35 mole, 58.5 g | C(C)(=O)O[C@H](C#C)CCCCC | C10H16O2
reactant | diethylamine | 0.39 mole, 28.5 g | C(C)NCC | C4H11N
reactant | paraformaldehyde | 0.46 mole, 13.8 g | C=O | CH2O
reactant | p-dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | ether | 250 ml | CCOCC | C4H10O
product | 1-Diethylamino-4(S)-acetyloxy-2nonyne | 73.1 g, 89% | C(C)N(CC#C[C@H](CCCCC)OC(C)=O)CC | C15H27NO2
